US05514680
Preparation of 7-Fluoro-6-nitro-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione
To a solution of 7-fluoro-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione (60 mg, 0.24 mmol) in concentrated H2SO4 (1 mL) at 0° C. was added KNO3 (27 mg, 0.26 mmol, Baker). The mixture was stirred at 90°-100° C. for 14 h, then cooled to room temperature and poured into ice water (2 g). The precipitate was collected by filtration, affording 64 mg (90%) of crude title compound. It was dissolved in 1N KOH (2 mL) and filtered. The filtrate was acidified to pH=2 with 4N HCl to give a yellow precipitate, which was collected by filtration, then was dried in the air at 50° C. for 4 h, affording pure title compound (54 mg, 76%) as a yellow powder. Mp: 305°-307° C.; IR (KBr, cm-1): 3418, 3124, 2971, 1717, 1624, 1556; 1H NMR (DMSO-d6): δ7.422 (d, 1H, J=10.2 Hz), 11.765 (br, 1H), 12.532 (s, 1H). HRMS: calcd for C9H3F4N3O4 (M+) m/z: 293.0086, found: 293.0071.

reactant | 7-fluoro-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 0.24 mmol, 60 mg | FC1=CC(=C2NC(C(NC2=C1)=O)=O)C(F)(F)F | C9H4F4N2O2
reactant | KNO3 | 0.26 mmol, 27 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
solvent | KOH | 1N, 2 mL | [OH-].[K+]
product | 7-Fluoro-6-nitro-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 54 mg, 76% | FC1=C(C(=C2NC(C(NC2=C1)=O)=O)C(F)(F)F)[N+](=O)[O-] | C9H3F4N3O4
